US07786115B2
3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzoic acid (885 mg) was dissolved in acetone (50 ml), Sodium iodide (45 mg) and potassium carbonate (4.14 g) were added followed by 4-(2-chloroethyl)piperidine hydrochloride (1.67 g). The resultant mixture was stirred at 60° C. for 18 hours. 2N NaOH (9.4 ml) was added and stirred for 20 minutes, cooled and the insoluble material removed by filtration. The filtrate was concentrated, acidified to pH 1 with concentrated hydrochloric acid and purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution to give 4-methyl-3-[7-(2-piperidin-1-ylethoxy)-1-oxoisoquinolin-2(1H)-yl]benzoic acid as an oil (205 mg); NMR Spectrum: (DMSOd6) 2.13 (s, 1H), 3.00 (m, 4H), 3.35 (m, 2H), 3.95 (m, 4H), 4.58 (m, 2H), 6.46 (d, 1H), 6.90 (d, 1H), 7.25 (m, 1H), 7.35 (m, 1H), 7.50 (d, 1H), 7.80 (d, 1H), 7.87 (d, 1H), 7.98 (m, 1H); Mass Spectrum: M+H+ 407.

reactant | 3-(7-hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzoic acid | 885 mg | OC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)O)C=CC1C | C17H13NO4
reactant | Sodium iodide | 45 mg | [I-].[Na+]
reactant | potassium carbonate | 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(2-chloroethyl)piperidine hydrochloride | 1.67 g | Cl.ClCCC1CCNCC1
reactant | NaOH | 2N, 9.4 ml | [OH-].[Na+]
reactant | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-methyl-3-[7-(2-piperidin-1-ylethoxy)-1-oxoisoquinolin-2(1H)-yl]benzoic acid | 205 mg | CC1=C(C=C(C(=O)O)C=C1)N1C(C2=CC(=CC=C2C=C1)OCCN1CCCCC1)=O | C24H26N2O4
